US05053053
Preparation of 2,5-bis-(β-hydroxyethylthio)-1,4benzoquinone (Formula IV(C): R=CH2CH2OH)
2-Mercaptoethanol (3.5 ml, 0.05 mole) is added in a single amount to an ethanolic solution of p-benzoquinone (10.81 g, 0.1 mole) and the mixture is allowed to stand, with stirring, for 1/2 hour. Further 2-mercaptoethanol (1.75 ml, 0.025 mole) is added and the mixture is allowed to stand, with stirring, for 2 hours. The mixture is filtered and the precipitate is washed with absolute ethanol. Dark red crystals of the expected derivative are obtained:

reactant | 2-Mercaptoethanol | 0.05 mole, 3.5 ml | SCCO | C2H6OS
reactant | p-benzoquinone | 0.1 mole, 10.81 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 2-mercaptoethanol | 0.025 mole, 1.75 ml | SCCO | C2H6OS
product | 2,5-bis-(β-hydroxyethylthio)-1,4benzoquinone | OCCSC=1C(C=C(C(C1)=O)SCCO)=O | C10H12O4S2
